US04775692
Dimethyl methylphosphonate (9.3 g, 0.075 mol) was dissolved in anhydrous THF (80 ml) under argon atmosphere. To the solution stirred at -78° C. was added dropwise n-butyl lithium (1.61N, 47 ml, 0.075 mol) over 30 minutes, and then a solution of 2,2-dimethylbutanoic acid methyl ester (3.9 g, 0.03 mol) in anhydrous THF (10 ml) was also added dropwise over 30 minutes. The reaction mixture was warmed to room temperature and stirred for 30 minutes. Under ice cooling, acetic acid (4.5 ml) and water (10 ml) were added to the mixture. After concentration, water (20 ml) was added to the residue, and the mixture was then extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were washed with water (20 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. Distillation of the residue gave dimethyl 3,3-dimethyl-2-oxo-pentylphosphonate (3.36 g, 0.015 mol, yield: 50%, b.p.=115-117/0.5 mmHg). The structure was identified by the following data.

reactant | Dimethyl methylphosphonate | 0.075 mol, 9.3 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 0.075 mol, 1.61N, 47 ml | C(CCC)[Li]
reactant | 2,2-dimethylbutanoic acid methyl ester | 0.03 mol, 3.9 g | COC(C(CC)(C)C)=O | C7H14O2
reactant | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | dimethyl 3,3-dimethyl-2-oxo-pentylphosphonate | 0.015 mol, 3.36 g, yield: 50% | CC(C(CP(OC)(OC)=O)=O)(CC)C | C9H19O4P
